US05391556
4-Amino-N-[1-((4-amino-3-nitro-phenyl)-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichlorobenzenesulphonamide
3.06 g (10 mMol) of 4-amino-3-nitro-phenylalanyl-(4-methyl-piperidine) are dissolved in 100 ml of methylene chloride and combined with 2.8 ml (20 mMol) of triethylamine. Then at ambient temperature 3.1 g (12 mMol) of 4-amino-3,5-dichloro-benzenesulphonic acid chloride in 20 ml of methylene chloride is slowly added dropwise. After 2 hours the precipitate is suction filtered, washed with methylene chloride and dried at 70° C. For further purification the precipitate is suspended in 100 ml of ethanol, decocted and after cooling suction filtered again.

reactant | 4-amino-3-nitro-phenylalanyl-(4-methyl-piperidine) | 10 mMol, 3.06 g | NC1=C(C=C(C[C@H](N)C(=O)N2CCC(CC2)C)C=C1)[N+](=O)[O-] | C15H22N4O3
reactant | triethylamine | 20 mMol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | 4-amino-3,5-dichloro-benzenesulphonic acid chloride | 12 mMol, 3.1 g | NC1=C(C=C(C=C1Cl)S(=O)(=O)Cl)Cl | C6H4Cl3NO2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-Amino-N-[1-((4-amino-3-nitro-phenyl)-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichlorobenzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCC(CC1)C)CC1=CC(=C(C=C1)N)[N+](=O)[O-])Cl | C21H25Cl2N5O5S
